US07854864B2
UV-9:
Mixture of octyl-3-[3-tert-butyl-4-hydroxy-5-(chloro-2H-benzotriazole-2-yl) phenyl]propionate and 2-ethylhexyl-3-[3-tert-butyl-4-hydroxy-5-(5-chloro-2H-benzotriazole-2-yl) phenyl]propionate (TINUVIN 109)

reactant | octyl-3-[3-tert-butyl-4-hydroxy-5-(chloro-2H-benzotriazole-2-yl) phenyl]propionate | C(CCCCCCC)OC(CCC1=CC(=C(C(=C1)N1N=C2C(=N1)C=CC=C2Cl)O)C(C)(C)C)=O | C27H36ClN3O3
reactant | 2-ethylhexyl-3-[3-tert-butyl-4-hydroxy-5-(5-chloro-2H-benzotriazole-2-yl) phenyl]propionate | C(C)C(COC(CCC1=CC(=C(C(=C1)N1N=C2C(=N1)C=CC(=C2)Cl)O)C(C)(C)C)=O)CCCC | C27H36ClN3O3
product | UV-9 | CC1=CC(=C(C(=C1)N2N=C3C=CC=CC3=N2)O)CC=C | C16H15N3O
